US09334286B2
Preparation 50: 3-Chloro-6-ethynylisoquinoline
Potassium carbonate (9 mg, 0.0654 mmol) was added to a solution of 3-chloro-6-((trimethylsilyl)ethynyl)isoquinoline (Preparation 51, 170 mg, 0.654 mmol) in methanol (1 mL) and the reaction was stirred for 1 hour. Ethyl acetate (20 mL) was added and the organic solution was washed with water (20 mL), brine (20 mL), dried over sodium sulphate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with 50% hexane in dichloromethane to afford the title compound as a white powder (110 mg, 90%).

reactant | Potassium carbonate | 0.0654 mmol, 9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-6-((trimethylsilyl)ethynyl)isoquinoline | 0.654 mmol, 170 mg | ClC=1N=CC2=CC=C(C=C2C1)C#C[Si](C)(C)C | C14H14ClNSi
reactant | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
product | 3-Chloro-6-ethynylisoquinoline | 110 mg, 90% | ClC=1N=CC2=CC=C(C=C2C1)C#C | C11H6ClN
